US09428528B2
Step 3 Preparation of (1S,2S)-2-Amino-1-[4-(6-dimethylaminomethyl-pyridin-3-yl)-phenyl]-3-fluoro-propan-1-ol
To a stirred solution of (4S,5R)-5-[4-(6-Dimethylaminomethyl-pyridin-3-yl)-phenyl]-4-fluoromethyl-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester (80 mg, 0.180 mmol) in CH2Cl2 (0.32 mL) is added trifluoroacetic acid (0.32 mL). Reaction mixture allowed to warm to room temperature and stirred for 2 hours. The volatiles are removed under reduced pressure to obtain crude material purified by column chromatography eluting in 40% methanol in CH2Cl2 to afford the title compound (60 mg). LC-MS (m/z): [M+H]=304.1.

reactant | (4S,5R)-5-[4-(6-Dimethylaminomethyl-pyridin-3-yl)-phenyl]-4-fluoromethyl-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester | 0.180 mmol, 80 mg | C(C)(C)(C)OC(=O)N1C(O[C@@H]([C@H]1CF)C1=CC=C(C=C1)C=1C=NC(=CC1)CN(C)C)(C)C | C25H34FN3O3
reactant | trifluoroacetic acid | 0.32 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | CH2Cl2 | 0.32 mL | C(Cl)Cl | CH2Cl2
product | (1S,2S)-2-Amino-1-[4-(6-dimethylaminomethyl-pyridin-3-yl)-phenyl]-3-fluoro-propan-1-ol | 60 mg | N[C@@H]([C@@H](O)C1=CC=C(C=C1)C=1C=NC(=CC1)CN(C)C)CF | C17H22FN3O
